US07709468B2
4-[2-(4-Fluorophenyl)-imidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-yl-(1-methanesulfonylpiperidin-4-yl)-amine
To a mixture of 4-[2-(4-fluorophenyl)-imidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-ylpiperidin-4-ylamine (Example # H.1; 0.200 g, 0.514 mmol) and DIEA (0.18 mL, 1.0 mmol) in DCM (3 mL) at ambient temperature was added methanesulfonyl chloride (0.062 g, 0.539 mmol). After about six days, the mixture was treated with saturated aqueous NaHCO3 and the layers were separated. The combined organic layers were dried over MgSO4 and concentrated under reduced pressure. The crude material was triturated with EtOAc and filtered to yield the title compound after drying (0.090 g, 37%): LC/MS (Table 1, Method b) Rt=1.7 min; MS m/z: 468.6 (M+H)+.

reactant | 4-[2-(4-fluorophenyl)-imidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-ylpiperidin-4-ylamine | 0.514 mmol, 0.200 g | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2)C1C1=NC(=NC=C1)NC1CCNCC1 | C21H20FN7
reactant | DIEA | 1.0 mmol, 0.18 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methanesulfonyl chloride | 0.539 mmol, 0.062 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 3 mL | C(Cl)Cl | CH2Cl2
product | 4-[2-(4-Fluorophenyl)-imidazo[1,2-a]pyrazin-3-yl]-pyrimidin-2-yl-(1-methanesulfonylpiperidin-4-yl)-amine | FC1=CC=C(C=C1)C=1N=C2N(C=CN=C2)C1C1=NC(=NC=C1)NC1CCN(CC1)S(=O)(=O)C | C22H22FN7O2S
